US07087626B2
To a solution of [4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-acetic acid (150 mg, 0.39 mmol) in dichloromethane (3 mL) is added oxalyl chloride (490 mg, 3.9 mmol) and 1 drop of N,N-dimethylformamide. The mixture is stirred at room temperature for 5 h, concentrated in vacuo, and residual solvents removed by co-evaporation three times with chloroform to yield [4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-acetyl chloride as a yellow solid. To a solution of [4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-acetyl chloride (50 mg, 0.12 mmol) in dichloromethane at room temperature is added 1-methyl-piperazine (62 mg, 62 mmol) and the mixture stirred for 2.5 h. The mixture is partitioned between dichloromethane and water, the organic portion dried (sodium sulfate), filtered, and concentrated in vacuo. The crude residue is chromatographed on SiO2 (89% dichloromethane 10% methanol 1% concentrated ammonium hydroxide) to yield the title compound, 28 mg (48%), as a light brown solid.

reactant | [4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-acetic acid | 0.39 mmol, 150 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCC(=O)O | C22H18N4O3
reactant | oxalyl chloride | 3.9 mmol, 490 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | [4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-acetyl chloride | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCC(=O)Cl | C22H17ClN4O2
